US05182284
A 26.5 g (0.1 mole) quantity of 11-bromoundecanoic acid was dissolved in 300 ml of methanol, and 5 to 6 drops of sulfuric acid was added thereto and the mixture was stirred at room temperature for 24 hours and concentrated. A 500 ml quantity of ethyl acetate was added to the residue and the mixture was washed sequentially with 100 ml of water and 100 ml of a brine, followed by drying over anhydrous magnesium sulfate. Ethyl acetate was evaporated under reduced pressure and the residue was dissolved in 200 ml of dimethylformamide. To the solution were added 11.4 g (0.1 mole) of formylpiperazine and 18.5 g (0.22 mole) of sodium hydrogen carbonate. The mixture was stirred at 80° C. for 3 hours and concentrated under reduced pressure. A 500 ml quantity of ethyl acetate was added to the residue and the mixture was washed sequentially with 100 ml of water and 100 ml of a brine, followed by drying over anhydrous magnesium sulfate. Ethyl acetate was evaporated under reduced pressure. To the residue were added 300 ml of methanol and 50 ml of concentrated hydrochloric acid, and the mixture obtained was refluxed for 3 hours. The solvent was evaporated under reduced pressure and the precipitated white crystals were washed with acetone, giving 25 g (yield: 70%) of 11-(1-piperazyl)undecanoic acid methyl ester as the hydrochloride.

reactant | 11-bromoundecanoic acid | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | formylpiperazine | 0.1 mole, 11.4 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | sodium hydrogen carbonate | 0.22 mole, 18.5 g | C(O)([O-])=O.[Na+]
reactant | hydrochloride | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
catalyst | sulfuric acid | 5 to 6 drops | S(O)(O)(=O)=O | H2O4S
product | 11-(1-piperazyl)undecanoic acid methyl ester | 25 g, yield: 70% | COC(CCCCCCCCCCN1CCNCC1)=O | C16H32N2O2
